US05571775
38. Preparation of N-(2,6-Difluorophenyl)-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
N-(2,6-Difluorophenyl)-8-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide (0.8 g, 0. 0023 mol) and 25 percent sodium methoxide in methanol (1.6 mL, 0.37 g, 0.007 mol) were combined with 20 mL of dimethyl sulfoxide and the resulting solution was stirred at ambient temperature overnight. Another 1.6 mL of 25 percent sodium methoxide in methanol was added and the reaction mixture was stirred another 3 days. The mixture was then acidified with acetic acid and diluted with dichloromethane. The resulting solution was washed well with water and concentrated by evaporation under reduced pressure. The residue, which appeared to contain considerable starting material, was dissolved in 20 mL of dimethyl sulfoxide and potassium methoxide (0.4 g, 0.0057 mol) was added with stirring at ambient temperature. After about 3 hours the mixture was acidified with acetic acid and diluted with dichloromethane. The resulting solution was washed well with water and concentrated by evaporation under reduced pressure. The residue was mixed with hexane and the solids present were collected by filtration, washed with ether and with dichloromethane and dried to obtain 0.30 g (38 percent of theory) of the title compound as a white powder melting at 254°-255° C.

reactant | N-(2,6-Difluorophenyl)-8-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 0.8 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN2C(C(=CC=C2)Cl)=N1 | C12H7ClF2N4O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | sodium methoxide | 1.6 mL | C[O-].[Na+]
reactant | potassium methoxide | 0.0057 mol, 0.4 g | C[O-].[K+]
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 0.007 mol, 1.6 mL, 0.37 g | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2,6-Difluorophenyl)-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN2C(C(=CC=C2)OC)=N1 | C13H10F2N4O3S
